US08614215B2
To a stirred suspension of sodium 3-(methylthio)propane-1-sulfonate (20 g) in dry DCM (200 mL), is added dropwise oxalyl chloride (80 mL) at 0° C. After stirring at room temperature for 3 h, the reaction mixture is concentrated under reduced pressure and ice (100 g) is added. The product is extracted with DCM (2×200 mL) and the organic phase is washed with brine then dried over Na2SO4. The solvent is removed under reduced pressure to afford 12 g of 3-(Methylthio)propane-1-sulfonyl chloride as colorless liquid. A solution of 3-(methylthio)propane-1-sulfonyl chloride (12 g) in dry THF (100 mL) is added dropwise to a solution of ammonia in dry THF (250 mL) at −78° C. After stirring at room temperature for 3 h, the reaction mixture is concentrated under reduced pressure. The residue is purified by chromatography using silica gel (60-120 mesh) and CHCl3/MeOH as eluent to afford 9 g (84%) of the title compound as pale a yellow solid. 1H NMR (DMSO-d6, 400 MHz) δ 6.80 (br s, 2H), 3.02-3.06 (m, 2H), 2.55-2.59 (m, 2H), 2.03 (s, 3H), 1.89-1.92 (m, 2H).

reactant | sodium 3-(methylthio)propane-1-sulfonate | 20 g | CSCCCS(=O)(=O)[O-].[Na+]
reactant | oxalyl chloride | 80 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | 3-(Methylthio)propane-1-sulfonyl chloride | 12 g | CSCCCS(=O)(=O)Cl | C4H9ClO2S2
